US06806024B1
61.7 g (0.296 mol) of 2-methoxyethyl phenylglyoxalate are dissolved in 360 ml pyridine. 22.7 g (0.0.326 mol) of hydroxylammonium hydrochloride are added in portions to this solution. When the addition is complete, the reaction mixture is stirred at room temperature for 2 hours. After addition of ethyl acetate and water, the organic layer is separated, washed with diluted HCl and water and dried over magnesium sulfate. Evaporation of the solvent gives 68 g (100%) of crude 2-methoxyethyl α-(hydroxyimino)-2-phenylacetate as a slightly brownish liquid. This compound is used without further purification in the next step.

reactant | 2-methoxyethyl phenylglyoxalate | 0.296 mol, 61.7 g | C1(=CC=CC=C1)C(C(=O)OCCOC)=O | C11H12O4
reactant | hydroxylammonium hydrochloride | 22.7 g | Cl.O[NH3+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 360 ml | N1=CC=CC=C1 | C5H5N
product | 2-methoxyethyl α-(hydroxyimino)-2-phenylacetate | 68 g, 100% | ON=C(C(=O)OCCOC)C1=CC=CC=C1 | C11H13NO4
